US04968602
Preparation of 1,17-Diamino-3,6,9,12,15-Pentaoxaheptadecane
A solution containing 60 g of 1,17-diphthalimido-3,6,9,12,15 - pentaoxaheptadecane (0.118 mol), 14.8 g of hydrazine hydrate (0.296 mol) and 500 ml of ethanol were heated with mechanical stirring in a 100° C. oil bath for 3 hours. The mixture was then allowed to cool and was then filtered. The filter cake was washed four times with 300 ml portions of ethanol. The combined filtrates were concentrated to give 32.35 g of a yellow opaque glassy oil. Evaporative distillation at 150°-200° C. (0.01 mm) gave 22.82 g of a light yellow oil (69% yield).

reactant | 1,17-diphthalimido-3,6,9,12,15 - pentaoxaheptadecane | 0.118 mol, 60 g | C1(C=2C(C(N1CCOCCOCCOCCOCCOCCN1C(C=3C(C1=O)=CC=CC3)=O)=O)=CC=CC2)=O | C28H32N2O9
reactant | hydrazine hydrate | 0.296 mol, 14.8 g | O.NN
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 1,17-Diamino-3,6,9,12,15-Pentaoxaheptadecane | 32.35 g | NCCOCCOCCOCCOCCOCCN | C12H28N2O5
